US05066490
A quantity of 1.18 g of N-(2-hydroxyethyl)maleimide was suspended in 25 ml ethyl vinyl ether and refluxed with stirring under an argon atmosphere, 70 mg mercuric acetate was added, and the reaction was continued at reflux for 24 hours. After 24 hours, the reaction mixture was allowed to cool to room temperature, and 1.50 mg of anhydrous potassium carbonate was added. After stirring for a few more minutes, the mixture was filtered and the precipitate was washed thoroughly with ethyl acetate. The washings were combined with the filtrate and evaporated to dryness in vacuo to yield an oily residue. This oily residue was chromatographed over 50 grams of neutral alumina, activity III, using methylene chloride-hexane (1:1) for elution. The initial fractions were collected and combined to yield 200 mg of crude 2-maleimidoethyl vinyl ether. The product was suitable for use in the next step in preparation of the crosslinker, but for analytical purposes could be purified by rechromatography over alumina or kugelrohr distillation.

reactant | N-(2-hydroxyethyl)maleimide | 1.18 g | OCCN1C(C=CC1=O)=O | C6H7NO3
reactant | potassium carbonate | 1.50 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl vinyl ether | 25 ml | C(=C)OCC | C4H8O
product | 2-maleimidoethyl vinyl ether | 200 mg | C(=C)OCCN1C(C=CC1=O)=O | C8H9NO3
